US06090753
Then, 100 g (0.42 mol) of 2-bromo-4-fluoro-5-nitrophenol was dissolved in 400 ml of dimethylformamide, to which 70 g (0.50 mol) of potassium carbonate was added and after warming to 50° C., 94 g (0.55 mol) of isopropyl iodide was added dropwise, and the mixture was stirred at 45° to 50° C. for 1 hour. After completion of the reaction, the reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and then with diluted hydrochloric acid, dried, and concentrated. The residue was subjected to column chromatography, which afforded 99.8 g (0.36 mol) of 2-bromo-4-fluoro-5-nitrophenyl isopropyl ether.

reactant | 2-bromo-4-fluoro-5-nitrophenol | 0.42 mol, 100 g | BrC1=C(C=C(C(=C1)F)[N+](=O)[O-])O | C6H3BrFNO3
reactant | potassium carbonate | 0.50 mol, 70 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl iodide | 0.55 mol, 94 g | C(C)(C)I | C3H7I
reactant | water | O | H2O
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 2-bromo-4-fluoro-5-nitrophenyl isopropyl ether | 0.36 mol, 99.8 g | C(C)(C)OC1=C(C=C(C(=C1)[N+](=O)[O-])F)Br | C9H9BrFNO3
